US08809012B2
Step 2: Synthesis of (4-((trimethylsilyl)ethynyl)phenyl)methanol
Under argon condition, 4-((trimethylsilyl)ethynyl)benzoic acid methyl ester (316 mg, 1.36 mmol) was dissolved in 5 mL of dry THF and then cooled to 0° C. and LiAlH4 (2.04 mL, 1.0 M solution in THF, 2.04 mmol) was slowly added thereto. Upon completion of the reaction after stirring for 30 minutes at 0° C., the reaction was terminated by adding 77 μL of water, 154 μL of 10% aqueous sodium hydroxide solution and 231 μL of water in order. When the white viscous precipitate was produced, the mixture was filtered through silica pad to remove the precipitate. The resulting solution was concentrated by distillation under reduced pressure, and purified by column chromatography to obtain 258 mg (1.26 mmol, 93%) of the desired compound.

reactant | 4-((trimethylsilyl)ethynyl)benzoic acid methyl ester | 1.36 mmol, 316 mg | COC(C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C13H16O2Si
reactant | LiAlH4 | 2.04 mmol, 1.0 M, 2.04 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4-((trimethylsilyl)ethynyl)phenyl)methanol | 1.26 mmol, 258 mg, 93% | C[Si](C)(C)C#CC1=CC=C(C=C1)CO | C12H16OSi
